US05006520
In 60 ml of dimethylformamide were suspended 4.0 g of 3-(4-bromophenyl)-1-(4-hydroxyphenyl)-1H-pyrazolo[3,4-b]pyridine, 1.8 g of 2-diethylaminoethylchloride and 1.7 g of potassium carbonate. The mixture was stirred at 100° C. for 6 hours. After the solvent was distilled off under reduced pressure, the residue was extracted with toluene-water. The organic layer was concentrated. By adding maleic acid, the residue was corverted into the salt. The obtained crude crystals were recrystallized from ethyl acetate to give 3.0 g of 3-(4-bromophenyl)-1-[4-(2-diethylaminoethoxy)phenyl]-1H-pyrazolo[3,4-b]pyridine·maleate, m.p. 135°-140° C.

reactant | 3-(4-bromophenyl)-1-(4-hydroxyphenyl)-1H-pyrazolo[3,4-b]pyridine | 4.0 g | BrC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)C2=CC=C(C=C2)O | C18H12BrN3O
reactant | 2-diethylaminoethylchloride | 1.8 g | C(C)N(CCCl)CC | C6H14ClN
reactant | potassium carbonate | 1.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 3-(4-bromophenyl)-1-[4-(2-diethylaminoethoxy)phenyl]-1H-pyrazolo[3,4-b]pyridine·maleate | 3.0 g | BrC1=CC=C(C=C1)C1=NN(C2=NC=CC=C21)C2=CC=C(C=C2)OCCN(CC)CC.C(\C=C/C(=O)[O-])(=O)[O-] | InChI=1S/C24H25BrN4O.C4H4O4/c1-3-28(4-2)16-17-30-21-13-11-20(12-14-21)29-24-22(6-5-15-26-24)23(27-29)18-7-9-19(25)10-8-18;5-3(6)1-2-4(7)8/h5-15H,3-4,16-17H2,1-2H3;1-2H,(H,5,6)(H,7,8)/p-2/b;2-1-
